US08232294B2
Step 4) 1-(hydroxymethyl)cyclopropyl acetate
To a mixture of 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropyl acetate (149 mg, 0.696 mmol) in 10 mL of methanol was added PPTS (18 mg, 0.07 mmol, Aldrich) in portions. After stirring for 5 hrs at rt, the mixture was quenched with 10 mL of water and extracted with dichloromethane (20 mL×3). The combined organic phases were dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (PE: EtOAc=10:1) to give the title compound as pale yellow oil (46 mg, 35.5%).

reactant | 1-((tetrahydro-2H-pyran-2-yloxy)methyl)cyclopropyl acetate | 0.696 mmol, 149 mg | C(C)(=O)OC1(CC1)COC1OCCCC1 | C11H18O4
reactant | PPTS | 0.07 mmol, 18 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | methanol | 10 mL | CO | CH4O
product | 1-(hydroxymethyl)cyclopropyl acetate | 46 mg, 35.5% | C(C)(=O)OC1(CC1)CO | C6H10O3
